US08071625B2
To a solution of give (1-(2-(tert-butoxycarbonylamino)acetyl)-4-(3-fluoro-2-methylbenzylcarbamoyl)piperidin-4-yl)methyl 4-ethylphenylcarbamate (12 mg, 0.021 mmol, 1.0 equiv.) in CH2Cl2 (1 mL) was added 4N HCl (1 mL). The mixture was stirred at rt for about 1 h and concentrated to dryness. The resulting residue was purified on RP-HPLC using a mixture of acetonitrile and H2O to give (1-(2-aminoacetyl)-4-(3-fluoro-2-methylbenzylcarbamoyl)piperidin-4-yl)methyl 4-ethylphenylcarbamate (8 mg, 79%). LRMS (M+H+) m/z 485.1.

reactant | (1-(2-(tert-butoxycarbonylamino)acetyl)-4-(3-fluoro-2-methylbenzylcarbamoyl)piperidin-4-yl)methyl 4-ethylphenylcarbamate | 0.021 mmol, 12 mg, 1.0 equiv. | C(C)C1=CC=C(C=C1)NC(OCC1(CCN(CC1)C(CNC(=O)OC(C)(C)C)=O)C(NCC1=C(C(=CC=C1)F)C)=O)=O | C31H41FN4O6
reactant | HCl | 4N, 1 mL | Cl | ClH
solvent | CH2Cl2 | 1 mL | C(Cl)Cl | CH2Cl2
product | (1-(2-aminoacetyl)-4-(3-fluoro-2-methylbenzylcarbamoyl)piperidin-4-yl)methyl 4-ethylphenylcarbamate | 8 mg, 79% | C(C)C1=CC=C(C=C1)NC(OCC1(CCN(CC1)C(CN)=O)C(NCC1=C(C(=CC=C1)F)C)=O)=O | C26H33FN4O4
